US04474692
In a solution of 13 g of 2-indanone in 100 ml of methanol, there is dissolved 13 g of β-alanine ethyl ester hydrochloride, and, with ice cooling and stirring, 6.5 g of sodium cyanoborohydride is added portionwise. After standing at room temperature overnight, the mixture is poured into 500 ml of ice water, made alkaline with sodium hydrogen carbonate and extracted with 200 ml of chloroform. The extract is washed with water, and dried, followed by distilling off chloroform under reduced pressure. To the residue, 10 ml of 20% ethanolic hydrochloric acid and 50 ml of ethyl ether are added successively, and the mixture is allowed to stand at room temperature. The resulting precipitate is collected by filtration and dried to give 10 g of N-(indan-2-yl)-β-alanine ethyl ester hydrochloride as colorless scales melting at 150°-151° C.

reactant | β-alanine ethyl ester hydrochloride | 13 g | Cl.C(C)OC(CCN)=O
reactant | sodium cyanoborohydride | 6.5 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 2-indanone | 13 g | C1C(CC2=CC=CC=C12)=O | C9H8O
solvent | methanol | 100 ml | CO | CH4O
product | N-(indan-2-yl)-β-alanine ethyl ester hydrochloride | 10 g | Cl.C(C)OC(CCNC1CC2=CC=CC=C2C1)=O | InChI=1S/C14H19NO2.ClH/c1-2-17-14(16)7-8-15-13-9-11-5-3-4-6-12(11)10-13;/h3-6,13,15H,2,7-10H2,1H3;1H
